US07368471B2
{1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid
The title compound was prepared from 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole and oxalyl chloride in substantially the same manner, as described in Step 3 of Example 25. The product was obtained as a yellow solid, mp: 192-193° C. Mass spectrum (ESI, [M+H]+) m/z 454. 1HNMR (400 MHz, DMSO-d6): δ 13.50 (br s, 1H), 8.70 (s, 1H), 8.42 (s, 1H), 7.77 (d, 2H, J=8.7 Hz), 7.67 (d, 1H, J=8.5 Hz), 7.58 (dd, 1H, J=8.7 Hz and 1.8 Hz), 7.45 (d, 2H, J=8.3 Hz), 7.22 (d, 1H, J=7.9 Hz), 7.15 (d, 2H, J=8.1 Hz), 5.57 (s, 2H), and 2.25 ppm (s, 3H). Elemental Analysis for C25H18F3NO4.0.2 H2O: Calculated: C, 65.70; H, 4.06; N, 3.06. Found: C, 65.74; H, 4.05; N, 2.94.

reactant | 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole | CC1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C=C1 | C23H18F3NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | H2O | O | H2O
product | {1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | CC1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C(C(=O)O)=O)C=C1 | C25H18F3NO4
